US05843973
Trans-4-hydroxymethyl-1-(1-t-butyldimethylsilyloxyethyl)cyclohexane
In 50 ml of dry ethanol was dissolved 2.7 g of trans-4-benzyloxymethyl-1-(1-t-butyldimethylsilyloxyethyl)cyclohexane, and 2.0 g of 10% palladium-carbon was added thereto, and the resulting mixture was heated under reflux for 9 hours and 50 minutes while stirring under a hydrogen stream. Further, 2.0 g of 10% palladium-carbon was added to the reaction mixture and the resulting mixture was heated under reflux for 4 hours and 15 minutes while stirring under a hydrogen stream. After completion of the reaction, palladium-carbon was separated by filtration and the solvent was distilled off under reduced pressure to obtain 1.85 g of the desired compound as a colorless oil.

reactant | trans-4-benzyloxymethyl-1-(1-t-butyldimethylsilyloxyethyl)cyclohexane | 2.7 g | C(C1=CC=CC=C1)OC[C@@H]1CC[C@H](CC1)C(C)O[Si](C)(C)C(C)(C)C | C22H38O2Si
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 2.0 g | [C].[Pd]
catalyst | palladium-carbon | 2.0 g | [C].[Pd]
product | Trans-4-hydroxymethyl-1-(1-t-butyldimethylsilyloxyethyl)cyclohexane | 1.85 g | OC[C@@H]1CC[C@H](CC1)C(C)O[Si](C)(C)C(C)(C)C | C15H32O2Si
